US08735417B2
To a suspension of 4-[5-(3-nitro-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one (410 mg, 0.855 mmol) in tetrahydrofuran (4.5 mL) at room temperature, under nitrogen, were successively added triethylamine (0.179 mL, 1.28 mmol), N,N-dimethylpyridin-4-amine (10.45 mg, 0.086 mmol) and di-tert-butyl dicarbonate (205 mg, 0.941 mmol). The mixture was stirred at room temperature for 60 h after which a yellow solution was obtained. The mixture was diluted with ethyl acetate, washed with water and brine, dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified via CombiFlash (ethanol/dichloromethane) to provide 316 mg (0.545 mmol, 64% yield) of tert-butyl{3-nitro-5-[2-(3-oxo-1,4-diazepan-1-yl)-1,3-thiazol-5-yl]phenyl}[4-(trifluoromethyl)pyrimidin-2-yl]carbamate as a yellow solid. MS APCI: [M+H]m/z 580.1.

reactant | 4-[5-(3-nitro-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one | 0.855 mmol, 410 mg | [N+](=O)([O-])C=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CN=C(S1)N1CC(NCCC1)=O | C19H16F3N7O3S
reactant | triethylamine | 1.28 mmol, 0.179 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.941 mmol, 205 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylpyridin-4-amine | 0.086 mmol, 10.45 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl{3-nitro-5-[2-(3-oxo-1,4-diazepan-1-yl)-1,3-thiazol-5-yl]phenyl}[4-(trifluoromethyl)pyrimidin-2-yl]carbamate | 0.545 mmol, 316 mg, 64% yield | C(C)(C)(C)OC(N(C1=NC=CC(=N1)C(F)(F)F)C1=CC(=CC(=C1)C1=CN=C(S1)N1CC(NCCC1)=O)[N+](=O)[O-])=O | C24H24F3N7O5S
